US07342080B2
To a 50-mL round-bottom flask, equipped with a magnetic stirbar, was charged 6.12 g (82.6 mmol) of AM-7 and 20 g (16.5 mmol) of FC-1 at room temperature. Next the mixture was stirred for about 30 min at room temperature. Finally volatiles were removed at temperatures up to 150° C. at 4.0 mm pressure to provide FC-1/AM-7, nominal molecular weight=1253.1 g/mol.

reactant | AM-7 | 82.6 mmol, 6.12 g | CN1C(=NC=C(C1=O)C2=CC(=C(C=C2)OC3=C4C=C(C(=CC4=NC=C3)OCCCN5CCOCC5)OC)F)CC6=CC=CC=C6 | C35H35FN4O5
reactant | FC-1 | 16.5 mmol, 20 g | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl
product | FC-1 AM-7 | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl.CN1C(=NC=C(C1=O)C2=CC(=C(C=C2)OC3=C4C=C(C(=CC4=NC=C3)OCCCN5CCOCC5)OC)F)CC6=CC=CC=C6 | InChI=1S/C35H35FN4O5.C21H24ClNO.ClH/c1-39-34(19-24-7-4-3-5-8-24)38-23-27(35(39)41)25-9-10-31(28(36)20-25)45-30-11-12-37-29-22-33(32(42-2)21-26(29)30)44-16-6-13-40-14-17-43-18-15-40;1-23-18-11-12-19(23)14-20(13-18)24-21(15-5-3-2-4-6-15)16-7-9-17(22)10-8-16;/h3-5,7-12,20-23H,6,13-19H2,1-2H3;2-10,18-21H,11-14H2,1H3;1H
